US03971819
B. 3-amino-4-n-butylsulphinyl-5-sulphamyl-benzoic acid
To a solution of sodium dithionite (7.3 g) in water (50 ml) conc. aqueous ammonia (25 ml) was added, after which 4-n-butylsulphinyl-3-nitro-5-sulphamyl-benzoic acid (4 g) was added in portions at 25°C, while stirring. The reaction mixture was heated on a steam bath for 30 minutes. Then 4N hydrochloric acid was added until a pH of 1, while the heating was continued. After the evolution of sulphur dioxide had ceased, the reaction mixture was adjusted to a pH of 2.5 by addition of 2N sodium hydroxide, and cooled. The precipitated 3-amino-4-n-butylsulphinyl-5-sulphamyl-benzoic acid was collected by suction, recrystallized from aqueous ethanol, and dried in vacuo at 115°C. The acid was obtained with a melting point of 237°C (decomp.).

reactant | sodium dithionite | 7.3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-n-butylsulphinyl-3-nitro-5-sulphamyl-benzoic acid | 4 g | C(CCC)S(=O)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C11H14N2O7S2
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | sulphur dioxide | S(=O)=O | O2S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3-amino-4-n-butylsulphinyl-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1S(=O)CCCC)S(N)(=O)=O | C11H16N2O5S2
